US04855320
4-Propoxy-2(5H)-furanone
Preparation analogous to Example 91 from 4-methoxy-2(5H)-furanone and propanol; b.p.10 143°-145° C. Yield: 39%.

reactant | 4-methoxy-2(5H)-furanone | COC1=CC(OC1)=O | C5H6O3
reactant | propanol | C(CC)O | C3H8O
product | 4-Propoxy-2(5H)-furanone | Yield: 39% | C(CC)OC1=CC(OC1)=O | C7H10O3
